US09061060B2
Preparation of (2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-2-(chloromethyl)-5-(4-ethoxybenzyl)phenyl)tetrahydro-2H-pyran (63)
Thionyl chloride (0.1 mL) was added dropwise into a solution of (5-chloro-4-(4-ethoxybenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)phenyl)methanol (100 mg, 0.13 mmol) in methylene chloride (2 mL) at 0° C., and the mixture was allowed to stir for 2 hours at RT. The reaction mixture was evaporated to dryness, and the residual oil was used for the next step without further purification.

reactant | Thionyl chloride | 0.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (5-chloro-4-(4-ethoxybenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)phenyl)methanol | 0.13 mmol, 100 mg | ClC=1C(=CC(=C(C1)CO)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC | C50H51ClO7
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | (2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-2-(chloromethyl)-5-(4-ethoxybenzyl)phenyl)tetrahydro-2H-pyran | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)OCC)Cl)CCl)COCC1=CC=CC=C1 | C50H50Cl2O6
